US09315475B2
Step 2: N-(5-Fluoro-4-iodopyridin-3-yl)-2,2-dimethylpropanamide
A 2.5M solution of nBuLi (30.6 mL, 76 mmol) in hexanes was added drop-wise to a solution of N-(5-fluoropyridin-3-yl)-2,2-dimethylpropanamide 5.0 g, 25.5 mmol) and TMEDA (11.54 mL, 76 mmol) in THF (127 mL) at −78° C. over 1 hour, while ensuring the internal temperature did not go above −70° C. The resulting solution was stirred at −78° C. for 1 hour. Iodine (19.40 g, 76 mmol) in THF (20 mL) was added drop-wise over 30 min ensuring the internal temperature remained below −70° C. The resulting reaction was stirred for 1 hour at −78° C. The reaction was quenched at −78° C. with water and then warmed to ambient temperature. 10% Aqueous sodium thiosulfate was added until the iodine color dissipated and the mixture was extracted with ethyl acetate (×3). The combined organic fractions were dried (MgSO4), filtered and the solvent was evaporated under reduced pressure to afford the title compound (8.21 g, 25.5 mmol, 100% yield), MS (ESI): m/z=323.26 (MH+), 100% pure by LCMS.

reactant | nBuLi | 76 mmol, 30.6 mL | [Li]CCCC
reactant | N-(5-fluoropyridin-3-yl)-2,2-dimethylpropanamide | 25.5 mmol, 5.0 g | FC=1C=C(C=NC1)NC(C(C)(C)C)=O | C10H13FN2O
reactant | TMEDA | 76 mmol, 11.54 mL | CN(C)CCN(C)C | C6H16N2
reactant | Iodine | 76 mmol, 19.40 g | II | I2
solvent | THF | 127 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N-(5-Fluoro-4-iodopyridin-3-yl)-2,2-dimethylpropanamide | 25.5 mmol, 8.21 g, 100% yield | FC=1C(=C(C=NC1)NC(C(C)(C)C)=O)I | C10H12FIN2O
